US07939661B2
Step 2: (2-Morpholin-4-yl-pyrimidin-5-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(2-morpholin-4-yl-pyrimidin-5-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.12 g, 0.33 mmol) in dioxane (10 mL) and 4 M HCl in dioxane (10 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 264.1 [M+H]+.

reactant | 4-(2-morpholin-4-yl-pyrimidin-5-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=NC1)N1CCOCC1 | C18H29N5O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2-Morpholin-4-yl-pyrimidin-5-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.N1(CCOCC1)C1=NC=C(C=N1)NC1CCNCC1 | InChI=1S/C13H21N5O.2ClH/c1-3-14-4-2-11(1)17-12-9-15-13(16-10-12)18-5-7-19-8-6-18;;/h9-11,14,17H,1-8H2;2*1H
